US07423159B2
A mixture of methyl 4-fluorobenzoylacetate (3.92 g), p-toluenesulfonyl azide (4.00 g), triethylamine (2.02 g) and acetonitrile (30 ml) was stirred at 0° C. for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give a yellow oil. The Lawesson's reagent (8.10 g) and tetrahydrofuran (50 ml) were added to this yellow oil and the mixture was heated under reflux for 16 hrs. The reaction mixture was concentrated, and the residue was purified by silica gel column chromatography to give methyl 5-(4-fluorophenyl)-1,2,3-thiadiazole-4-carboxylate (1.95 g, yield 41%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:3, v/v).

reactant | methyl 4-fluorobenzoylacetate | 3.92 g | FC1=CC=C(C(=O)CC(=O)OC)C=C1 | C10H9FO3
reactant | p-toluenesulfonyl azide | 4.00 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
reactant | Lawesson's reagent | 8.10 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | methyl 5-(4-fluorophenyl)-1,2,3-thiadiazole-4-carboxylate | 1.95 g, yield 41% | FC1=CC=C(C=C1)C1=C(N=NS1)C(=O)OC | C10H7FN2O2S
